US05840732
Synthesis of 5-(4-chlorobutylthio)-2-methylimidazo[1,2-a]pyridine
Using 657 mg (4.0 mmol) of 5-mercapto-2-methylimidazo-[1,2-a]pyridine, 0.70 ml (5.0 mmol) of triethylamine and 0.58 ml (5.0 mmol) of 1-bromo-4-chlorobutane, the same procedure as in Reference Example 1 was followed, to yield 838 mg (82.3%, light orange solid) of the desired product.

reactant | 5-mercapto-2-methylimidazo-[1,2-a]pyridine | 4.0 mmol, 657 mg | SC1=CC=CC=2N1C=C(N2)C | C8H8N2S
reactant | triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-4-chlorobutane | 5.0 mmol, 0.58 ml | BrCCCCCl | C4H8BrCl
product | 5-(4-chlorobutylthio)-2-methylimidazo[1,2-a]pyridine | ClCCCCSC1=CC=CC=2N1C=C(N2)C | C12H15ClN2S
